US05231102
Trans-2-methoxycarbonyl-5,7-dichloro-4-(4-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride
This compound was prepared by the method given for Example 82 using trans-2-carboxy-5,7-dichloro-4(4-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride, Example 83, in place of trans-2-carboxy-5,7-dichloro-4(3-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride to give the title compound as a colourless crystalline solid m.p. 238°-240° C. δ (DMSO, 360 MHz), 1.80 (1H, ddd, J=13.0, 12.5 and 4.1 Hz, CHACHBHCCHD), 2.26 (1H, dm, J=13.0 Hz, CHACHBHCCHD), 3.71 (3H, s, CH3), 4.07 (3H, m, CHACHBHCCHD and CH2NH2), 5.26 (1H, m, CHACHBHCCHD), 6.68 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.91 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.95 (1H, s, NH), 7.53 (2H, d, J=8.2 Hz, Ar-H), 7.91 (2H, d, J=8.2 Hz, Ar-H), 8.38 (2H, br s, NH2), 8.73 (1H, d, J=7.2 Hz, NHCO); m/e (CI+ , NH3), 408 (M+1), 15 (100%; Found C, 48.87; H, 4.37; N, 8.95; C19H19Cl2N3O3.1.6 HCl requires C, 48.91; H, 4.45; N, 9.10%.

reactant | trans-2-carboxy-5,7-dichloro-4(4-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC=C(C=C1)CN)Cl)Cl
reactant | trans-2-carboxy-5,7-dichloro-4(3-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC(=CC=C1)CN)Cl)Cl
solvent | DMSO | CS(=O)C | C2H6OS
product | Trans-2-methoxycarbonyl-5,7-dichloro-4-(4-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC=C(C=C1)CN)Cl)Cl | InChI=1S/C19H19Cl2N3O3.ClH/c1-27-19(26)16-8-15(17-13(21)6-12(20)7-14(17)23-16)24-18(25)11-4-2-10(9-22)3-5-11;/h2-7,15-16,23H,8-9,22H2,1H3,(H,24,25);1H/t15-,16+;/m0./s1
